* BEGIN MODEL LMH6714
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Corporation.
* Models developed and under copyright by:
* National Semiconductor, Corporation.  
*/////////////////////////////////////////////////////////////////////
* Legal Notice:  
* The model may be copied, and distributed without any modifications;
* however, reselling or licensing the material is illegal.
* We reserve the right to make changes to the model without prior notice. 
* Pspice Models are provided "AS IS, WITH NO WARRANTY OF ANY KIND" 
*////////////////////////////////////////////////////////////////////
* For more information, and our latest models,
* please visit the models section of our website at
*       http://www.national.com/models/
*////////////////////////////////////////////////////////////////////
* PINOUT ORDER +IN -IN +V -V OUT
* PINOUT ORDER  3   4   6  2  1
.SUBCKT LMH6714 3 4 6 2 1
RSD 5 2 10E6
Q17 2 7 8 QOP
Q21 6 9 8 QON
D5 10 6 DD
D6 2 10 DD
D7 11 0 DIN
D8 12 0 DIN
I8 0 11 0.1E-3
I9 0 12 0.1E-3
E2 13 0 2 0 1
E3 14 0 6 0 1
D9 15 0 DVN
D10 16 0 DVN
I10 0 15 0.1E-3
I11 0 16 0.1E-3
E4 17 4 15 16 1.37
G2 18 0 11 12 6E-4
R22 2 6 100E3
E5 19 0 14 0 1
E6 20 0 13 0 1
E7 21 0 22 0 1
R30 19 23 1E4
R31 20 24 1E4
R32 21 25 1E4
R33 0 23 1
R34 0 24 1
R35 0 25 1
E10 26 18 25 0 1E-6
R36 27 22 1E3
R37 22 28 1E3
C6 19 23 100E-12
C7 20 24 100E-12
C8 21 25 1E-12
E11 29 26 24 0 0.9
E12 30 29 23 0 0.3
Q22 13 31 9 QDP
Q23 14 31 7 QDN
R38 0 32 10
R39 0 31 10
C9 32 0 20E-12
C10 31 0 7E-12
E15 33 34 35 0 1
E16 34 36 35 0 1
E17 37 0 34 0 1
D11 38 14 DD
D12 13 39 DD
V11 36 39 1.75
V12 38 33 1.75
I15 0 40 1M
D13 40 0 DD
V13 35 40 -0.71465
C11 34 0 2.05E-12
D14 41 42 DD
D15 42 43 DD
R40 42 34 190
R41 0 42 500E3
F1 42 0 V14 -2.2
E18 44 0 30 0 0.9999
R42 44 45 160
V14 45 46 0
R43 8 47 1
G3 32 0 34 0 0.1
G4 31 0 32 0 0.1
C14 8 0 0.2E-12
L1 47 10 4E-9
R45 47 10 400
E20 41 37 35 0 1
E21 43 37 35 0 -1
L2 48 46 2E-9
R46 48 46 200
G5 14 9 49 0 0.8E-3
G6 7 13 49 0 0.8E-3
E47 50 34 49 0 30
E48 51 0 49 0 -30
V48 52 51 15
V49 53 50 -15
R126 50 0 1E12
R127 51 0 1E12
M40 0 53 34 54 PSW L=1.5U W=150U
M41 34 52 0 55 NSW L=1.5U
R128 54 0 1E12
R129 55 0 1E12
E49 28 0 18 0 1
E50 27 0 17 0 1
C15 17 0 0.4E-12
C16 30 0 0.5E-12
C17 17 30 0.15E-12
E51 56 48 57 0 30
E52 58 17 57 0 -30
V50 59 58 15
V51 60 56 -15
R130 56 0 1E12
R131 58 0 1E12
M42 17 60 48 61 PSW L=1.5U W=150U
M43 48 59 17 62 NSW L=1.5U
R132 61 0 1E12
R133 62 0 1E12
E53 63 0 49 0 -1
V52 57 63 1
E54 64 10 57 0 30
E55 65 1 57 0 -30
V54 66 65 15
V55 67 64 -15
R136 64 0 1E12
R137 65 0 1E12
M44 1 67 10 68 PSW L=1.5U W=1500U
M45 10 66 1 69 NSW L=1.5U
R138 68 0 1E12
R139 69 0 1E12
D16 70 0 DIN
D17 71 0 DIN
I17 0 70 0.1E-3
I18 0 71 0.1E-3
G7 17 0 70 71 4.7E-3
E56 72 18 57 0 30
E57 73 3 57 0 -30
V56 74 73 15
V57 75 72 -15
R141 72 0 1E12
R142 73 0 1E12
M46 3 75 18 76 PSW L=1.5U W=150U
M47 18 74 3 77 NSW L=1.5U
R143 76 0 1E12
R144 77 0 1E12
R145 30 0 2E6
C18 48 0 0.4E-12
C19 3 0 0.5E-12
R146 29 30 1E9
R147 26 29 1E9
R148 18 26 1E9
R149 4 17 1E9
R150 34 33 1E9
R151 36 34 1E9
R152 37 0 1E12
R153 0 41 1E12
R154 0 43 1E12
Q24 78 79 80 QSW
R155 78 6 50E3
I21 6 81 90E-6
Q25 82 83 80 QSW
Q26 80 81 2 QSW
Q27 81 81 2 QSW
R156 82 6 50E3
R157 83 6 200E3
Q28 83 83 84 QSW
Q29 84 84 85 QSW
Q30 85 85 86 QSW
Q31 86 86 87 QSW
R158 2 87 200E3
E58 88 0 78 82 1
R159 0 88 200E3
R160 79 6 20E3
M48 49 88 0 0 NEN L=1.5U W=1500U
R161 49 89 50E3
V59 89 0 1
C20 78 82 90E-15
R164 5 79 200
C21 79 0 2E-12
C22 5 0 1E-12
C23 49 0 65E-15
C24 1 0 0.1E-12
R165 0 1 10E6
G8 6 2 49 0 4.3E-3
R166 0 57 1E9
R167 0 35 1E12
J1 48 90 48 JC
J2 18 90 18 JC
J3 91 48 91 JC
J4 91 18 91 JC
V61 14 91 3.4
V62 90 13 3.4
R168 63 0 1E12
G9 4 0 49 0 -4E-6
G10 18 0 49 0 1E-6
.MODEL QDP PNP
.MODEL QDN NPN
.MODEL JC NJF RS=1000 IS=1E-18
.MODEL DD D
.MODEL DC D IS=5.002E-16
.MODEL DVN D KF=2.5E-16
.MODEL DIN D KF=8E-17
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.MODEL QSW NPN
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL QON NPN VAF=150 BF=110 IKF=0.45 RE=0.5 RC=0.5
.MODEL QOP PNP VAF=150 BF=110 IKF=0.45 RE=0.5 RC=0.5
.ENDS
* END MODEL LMH6714
