*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Corporation.
* Models developed and under copyright by:
* National Semiconductor, Corporation.  
*/////////////////////////////////////////////////////////////////////
* Legal Notice:  
* The model may be copied, and distributed without any modifications;
* however, reselling or licensing the material is illegal.
* We reserve the right to make changes to the model without prior notice. 
* Pspice Models are provided "AS IS, WITH NO WARRANTY OF ANY KIND" 
*////////////////////////////////////////////////////////////////////
* For more information, and our latest models,
* please visit the models section of our website at
*       http://www.national.com/models/
*////////////////////////////////////////////////////////////////////
*MODEL FEATURES INCLUDE OUTPUT SWING, OUTPUT CURRENT THRU
*THE SUPPLY RAILS, GAIN AND PHASE, SLEW RATE, SENSITIVITY
*TO R FEEDBACK VALUE, COMMON MODE REJECTION, POWER SUPPLY
*REJECTION ON BOTH RAILS, INPUT VOLTAGE NOISE WITH 1/F,
*POSITIVE INPUT CURRENT NOISE WITH 1/F, NEGATIVE INPUT
*CURRENT NOISE WITH 1/F, OUTPUT IMPEDANCE, INPUT CAPACI-
*TANCE, INPUT BIAS CURRENT, INPUT COMMON MODE RANGE, INPUT
*OFFSET, HIGH CLOAD DRIVE CAPABILITY, OUTPUT CLAMPS TO THE
*RAIL, SHUTDOWN, SHUTDOWN THRESHOLD, SHUTDOWN INPUT PIN
*CURRENTS, SHUTDOWN AND ENABLE DELAYS, QUIESCENT SUPPLY
*CURRENT, QUIESCENT SUPPLY CURRENT AT SHUTDOWN, AND THE
*INTERNAL 450 OHM RESISTORS WITH PARASITICS.
*MODEL TEMP RANGE IS -40 TO +85 DEG C.
////////////////////////////////////////////////////////////////////
* BEGIN MODEL LMH6739
.SUBCKT LMH6739 2 1 15 13 14 16
*
* NOTE THAT THIS MODEL IS FOR THE A AMPLIFIER ONLY
*      IE ONLY ONE OF THE THREE SECTIONS
*
* PINOUT ORDER +IN -IN +V -V OUT EN
* PINOUT ORDER  2   1  15 13  14 16
*
Q17 13 17 18 QOP
Q21 15 19 18 QON
D5 20 15 DD
D6 13 20 DD
D7 21 0 DIP
D8 22 0 DIP
I8 0 21 0.1E-3
I9 0 22 0.1E-3
E2 23 0 13 0 1
E3 24 0 15 0 1
D9 25 0 DVN
D10 26 0 DVN
I10 0 25 0.1E-3
I11 0 26 0.1E-3
E4 27 97 25 26 1
G2 2 0 21 22 1.9E-3
R22 13 15 100E3
E5 28 0 24 0 4
E6 29 0 23 0 6
E7 30 0 31 0 1
R30 28 32 1E4
R31 29 33 1E4
R32 30 34 1E4
R33 0 32 1
R34 0 33 1
R35 0 34 1
E10 35 2 34 0 4
R36 36 31 1E3
R37 31 37 1E3
C6 28 32 8E-12
C7 29 33 6E-12
C8 30 34 20E-12
E11 38 35 33 0 2
E12 39 38 32 0 2
Q22 23 40 19 QDP
Q23 24 40 17 QDN
R38 0 41 10
R39 0 40 10
C9 41 0 30E-12
C10 40 0 10E-12
E15 42 43 44 0 1
E16 43 45 44 0 1
E17 46 0 43 0 1
D11 47 24 DD
D12 23 48 DD
V11 45 48 2
V12 47 42 2
I15 0 49 1M
D13 49 0 DD
V13 44 49 -0.71465
C11 43 0 2.05E-12
D14 50 51 DD
D15 51 52 DD
R40 51 43 95
R41 0 51 150E3
F1 51 0 V14 -1.45
E18 53 0 39 0 0.997
R42 53 54 30
V14 54 55 0.6E-3
R43 18 56 0.25
G3 41 0 43 0 0.1
G4 40 0 41 0 0.1
C14 18 0 0.2E-12
L1 56 20 4E-9
R45 56 20 400
E20 50 46 44 0 1
E21 52 46 44 0 -1
L2 57 55 1E-9
R46 57 55 50
G5 24 19 58 0 2E-3
G6 17 23 58 0 2E-3
E47 59 43 58 0 30
E48 60 0 58 0 -30
V48 61 60 15
V49 62 59 -15
R126 59 0 1E12
R127 60 0 1E12
M40 0 62 43 63 PSW L=1.5U W=150U
M41 43 61 0 64 NSW L=1.5U
R128 63 0 1E12
R129 64 0 1E12
E49 37 0 2 0 1
E50 36 0 27 0 1
C15 27 0 1.1E-12
C16 39 0 0.4E-12
C17 27 39 0.15E-12
E51 65 57 66 0 30
E52 67 27 66 0 -30
V50 68 67 15
V51 69 65 -15
R130 65 0 1E12
R131 67 0 1E12
M42 27 69 57 70 PSW L=1.5U W=150U
M43 57 68 27 71 NSW L=1.5U
R132 70 0 1E12
R133 71 0 1E12
E53 72 0 58 0 -1
V52 66 72 1
E54 73 20 66 0 30
E55 74 14 66 0 -30
V54 75 74 15
V55 76 73 -15
R136 73 0 1E12
R137 74 0 1E12
M44 14 76 20 77 PSW L=1.5U W=1500U
M45 20 75 14 78 NSW L=1.5U
R138 77 0 1E12
R139 78 0 1E12
D16 79 0 DIN
D17 80 0 DIN
I17 0 79 0.1E-3
I18 0 80 0.1E-3
G7 27 0 79 80 6E-3
I19 0 2 -7E-6
I20 97 0 2E-6
R145 39 0 2E6
C18 57 0 0.4E-12
C19 2 0 0.4E-12
R146 38 39 1E9
R147 35 38 1E9
R148 2 35 1E9
R149 97 27 1E9
R150 43 42 1E9
R151 45 43 1E9
R152 46 0 1E12
R153 0 50 1E12
R154 0 52 1E12
Q24 81 82 83 QSW
R155 81 15 50E3
I21 15 84 23E-6
Q25 85 86 83 QSW
Q26 83 84 13 QSW
Q27 84 84 13 QSW
R156 85 15 50E3
R157 86 15 14E3
Q28 86 86 87 QSW
Q29 87 87 88 QSW
Q30 88 88 89 QSW
Q31 89 89 90 QSW
R158 13 90 14E3
E58 91 0 81 85 1
R159 0 91 200E3
R160 82 15 14E3
M48 58 91 0 0 NEN L=1.5U W=1500U
R161 58 92 50E3
V59 92 0 1
C20 81 85 35E-15
R164 16 82 200
C21 82 0 2E-12
C22 16 0 1E-12
C23 58 0 65E-15
C24 14 0 0.1E-12
R165 0 14 10E6
G8 15 13 58 0 7.5E-3
R166 0 66 1E9
R167 0 44 1E12
J1 27 93 27 JC
J2 2 93 2 JC
J3 94 27 94 JC
J4 94 2 94 JC
V61 24 94 3.6
V62 93 23 3.6
I23 15 13 1E-3
RG1 14 96 450
LG1 96 97 1E-9
CG1 14 97 0.2E-12
RG2 95 97 450
LG2 1 95 1E-9
CG2 1 97 0.03E-12
.MODEL QON NPN VAF=150 BF=80 IKF=0.45 RE=0.5 RC=0.5
.MODEL QOP PNP VAF=150 BF=80 IKF=0.45 RE=0.5 RC=0.5
.MODEL QDP PNP
.MODEL QDN NPN
.MODEL JC NJF RS=1000 IS=1E-18
.MODEL DD D
.MODEL DC D IS=5.002E-16
.MODEL DVN D KF=2.5E-16
.MODEL DIN D KF=8E-15
.MODEL DIP D KF=3.3E-15
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.MODEL QSW NPN
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.ENDS
* END MODEL LMH6739
