*LMH6703C
*****************************************************************************
* (C) Copyright 2016 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: LMH6703C
* Date: 20/04/2016 
* Model Type: All In One
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SNOSAF2D
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*
*****************************************************************************
* Notes:
* MODEL FEATURES INCLUDE OUTPUT SWING, OUTPUT CURRENT THRU
* THE SUPPLY RAILS, GAIN AND PHASE, SLEW RATE, SENSITIVITY
* TO R FEEDBACK VALUE, COMMON MODE REJECTION, POWER SUPPLY
* REJECTION ON BOTH RAILS, INPUT VOLTAGE NOISE WITH 1/F,
* POSITIVE INPUT CURRENT NOISE WITH 1/F, NEGATIVE INPUT
* CURRENT NOISE WITH 1/F, INPUT CAPACITANCE, INPUT BIAS
* CURRENT, INPUT COMMON MODE RANGE, INPUT	OFFSET, HIGH
* CLOAD DRIVE CAPABILITY, OUTPUT CLAMPS TO THE RAIL,
* SHUTDOWN, SHUTDOWN THRESHOLD, SHUTDOWN INPUT PIN
* CURRENTS, SHUTDOWN AND ENABLE DELAYS, QUIESCENT SUPPLY
* CURRENT, AND QUIESCENT SUPPLY CURRENT AT SHUTDOWN,
* MODEL TEMP RANGE IS -40 TO +85 DEG C
* NOTE THAT MODEL IS FUNCTIONAL OVER THIS TEMP RANGE BUT NOT ALL
* PARAMETERS TRACK THOSE OF THE REAL PART
*****************************************************************************
* PINOUT ORDER +IN -IN +V -V OUT NSD
* PINOUT ORDER  3   2   7  4  6   8
.SUBCKT LMH6703C 3 2 7 4 6 8
Q17 4 9 10 QOP
Q21 7 11 10 QON
D5 12 7 DD
D6 4 12 DD
D7 13 0 DIP
D8 14 0 DIP
I8 0 13 0.1E-3
I9 0 14 0.1E-3
E2 15 0 4 0 1
E3 16 0 7 0 1
D9 17 0 DVN
D10 18 0 DVN
I10 0 17 0.1E-3
I11 0 18 0.1E-3
E4 19 2 17 18 1.03
G2 20 0 13 14 1.5E-3
R22 4 7 100E3
E5 21 0 16 0 1
E6 22 0 15 0 1
E7 23 0 24 0 1
R30 21 25 1E3
R31 22 26 1E3
R32 23 27 1E4
R33 0 25 1
R34 0 26 1
R35 0 27 1
E10 28 20 27 0 1E-6
R36 29 24 1E3
R37 24 30 1E3
C6 21 25 30E-12
C7 22 26 30E-12
C8 23 27 1E-12
E11 31 28 26 0 1.2
E12 32 31 25 0 0.9
Q22 15 33 11 QDP
Q23 16 33 9 QDN
R38 0 34 10
R39 0 33 10
C9 34 0 8E-12
C10 33 0 2.67E-12
E15 35 36 37 0 1
E16 36 38 37 0 1
E17 39 0 36 0 1
D11 40 16 DD
D12 15 41 DD
V11 38 41 2.2
V12 40 35 2.2
I15 0 42 1E-3
D13 42 0 DD
V13 37 42 -0.71465
C11 36 0 1.4E-12
D14 43 44 DD
D15 44 45 DD
R40 44 36 112
R41 0 44 150E3
F1 44 0 V14 -1.4
E18 46 0 32 0 0.998
R42 46 47 35
V14 47 48 0.4E-3
R43 10 49 0.25
G3 34 0 36 0 0.1
G4 33 0 34 0 0.1
C14 10 0 0.2E-12
L1 49 12 4E-9
R45 49 12 400
E20 43 39 37 0 1
E21 45 39 37 0 -1
L2 50 48 3E-9
R46 50 48 150
G5 16 11 51 0 2E-3
G6 9 15 51 0 2E-3
E47 52 36 51 0 30
E48 53 0 51 0 -30
V48 54 53 15
V49 55 52 -15
R126 52 0 1E12
R127 53 0 1E12
M40 0 55 36 56 PSW L=1.5U W=150U
M41 36 54 0 57 NSW L=1.5U
R128 56 0 1E12
R129 57 0 1E12
E49 30 0 20 0 1
E50 29 0 19 0 1
C15 19 0 0.7E-12
C16 32 0 0.7E-12
C17 19 32 0.15E-12
E51 58 50 59 0 30
E52 60 19 59 0 -30
V50 61 60 15
V51 62 58 -15
R130 58 0 1E12
R131 60 0 1E12
M42 19 62 50 63 PSW L=1.5U W=150U
M43 50 61 19 64 NSW L=1.5U
R132 63 0 1E12
R133 64 0 1E12
E53 65 0 51 0 -1
V52 59 65 1
E54 66 12 59 0 30
E55 67 6 59 0 -30
V54 68 67 15
V55 69 66 -15
R136 66 0 1E12
R137 67 0 1E12
M44 6 69 12 70 PSW L=1.5U W=1500U
M45 12 68 6 71 NSW L=1.5U
R138 70 0 1E12
R139 71 0 1E12
D16 72 0 DIN
D17 73 0 DIN
I17 0 72 0.1E-3
I18 0 73 0.1E-3
G7 19 0 72 73 9E-3
I19 20 0 7E-6
I20 2 0 2E-6
E56 74 20 59 0 30
E57 75 3 59 0 -30
V56 76 75 15
V57 77 74 -15
R141 74 0 1E12
R142 75 0 1E12
M46 3 77 20 78 PSW L=1.5U W=150U
M47 20 76 3 79 NSW L=1.5U
R143 78 0 1E12
R144 79 0 1E12
R145 32 24 1E6
C18 50 0 0.8E-12
C19 3 0 0.1E-12
R146 31 32 1E9
R147 28 31 1E9
R148 20 28 1E9
R149 2 19 1E9
R150 36 35 1E9
R151 38 36 1E9
R152 39 0 1E12
R153 0 43 1E12
R154 0 45 1E12
Q24 80 81 82 QSW
R155 80 7 50E3
I21 7 83 90E-6
Q25 84 85 82 QSW
Q26 82 83 4 QSW
Q27 83 83 4 QSW
R156 84 7 50E3
R157 85 7 200E3
Q28 85 85 86 QSW
Q29 86 86 87 QSW
Q30 87 87 88 QSW
Q31 88 88 89 QSW
R158 4 89 200E3
E58 90 0 80 84 1
R159 0 90 200E3
R160 81 7 29E3
M48 51 90 0 0 NEN L=1.5U W=1500U
R161 51 91 50E3
V59 91 0 1
C20 80 84 100E-15
R164 8 81 200
C21 81 0 2E-12
C22 8 0 1E-12
C23 51 0 50E-15
C24 6 0 0.1E-12
R165 0 6 26E6
G8 7 4 51 0 8.8E-3
R166 0 59 1E9
R167 0 37 1E12
J1 19 92 19 JC
J2 20 92 20 JC
J3 93 19 93 JC
J4 93 20 93 JC
V61 16 93 3.6
V62 92 15 3.6
C25 2 6 0.02E-12
I23 7 4 -100E-6
I24 81 0 -67E-6
.MODEL QON NPN VAF=150 BF=110 IKF=0.45 RE=0.5 RC=0.5
.MODEL QOP PNP VAF=150 BF=110 IKF=0.45 RE=0.5 RC=0.5
.MODEL QDP PNP 
.MODEL QDN NPN 
.MODEL JC NJF RS=1000 IS=1E-18
.MODEL DD D 
.MODEL DC D IS=5.002E-16
.MODEL DVN D KF=6.6E-16
.MODEL DIN D KF=4.3E-15
.MODEL DIP D KF=3.8E-15
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.MODEL QSW NPN 
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.ENDS
*.END MODEL LMH6703C
